US08247377B2
Intermediate 29: 2-Chloro-6-[(difluoromethyl)oxy]benzoic acid
Potassium permanganate (1.64 g) was added portionwise over a period of 4 hours to a stirred mixture of 1-chloro-3-[(difluoromethyl)oxy]-2-methylbenzene (0.999 g) in t-butanol/water (20 ml, 1:1) heated at 100° C. The reaction mixture was heated for a further 4 hours—total heating time was 8 hours. The reaction mixture was allowed to cool to room temperature and then allowed to stand overnight. Aqueous sodium metabisulphite solution (5%) was added dropwise until the purple colour disappeared and the resultant mixture was filtered. The filtrate was adjusted to pH 10 using aqueous sodium carbonate solution and extracted with ether (100 ml). The aqueous portion was acidified using aqueous hydrochloric acid (2M) to pH 1 and then extracted with ether (100 ml). The ether layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), filtered and evaporated. The title compound was obtained as a colourless oil (0.538 g).

reactant | Potassium permanganate | 1.64 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | 1-chloro-3-[(difluoromethyl)oxy]-2-methylbenzene | 0.999 g | ClC1=C(C(=CC=C1)OC(F)F)C | C8H7ClF2O
reactant | sodium metabisulphite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | t-butanol water | 20 ml | C(C)(C)(C)O.O
product | 2-Chloro-6-[(difluoromethyl)oxy]benzoic acid | ClC1=C(C(=O)O)C(=CC=C1)OC(F)F | C8H5ClF2O3
